US05952362
N-(3-cyanomethoxy-2-methylphenyl)-methanesulfonamide (1.87 g, 7.78 mmol) was suspended in a 1:1 mixture of t-butanol and carbon tetrachloride (80 ml) and cooled in an ice bath. t-Butyl hypochlorite (TCl, 0.85 g, 7.78 mmol) was added dropwise. The mixture was maintained at -4° C. overnight then warmed to room temperature. The volatiles were removed at reduced pressure. N-(6-chloro-3-cyanomethoxy-2-methylphenyl)-methanesulfonamide (1.05 g, 49% yield) was obtained by recrystallization from toluene.

reactant | N-(3-cyanomethoxy-2-methylphenyl)-methanesulfonamide | 7.78 mmol, 1.87 g | C(#N)COC=1C(=C(C=CC1)NS(=O)(=O)C)C | C10H12N2O3S
reactant | t-butanol | C(C)(C)(C)O | C4H10O
reactant | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | t-Butyl hypochlorite | 7.78 mmol, 0.85 g | ClOC(C)(C)C | C4H9ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(6-chloro-3-cyanomethoxy-2-methylphenyl)-methanesulfonamide | 1.05 g, 49% yield | ClC1=CC=C(C(=C1NS(=O)(=O)C)C)OCC#N | C10H11ClN2O3S
